US05026856
7(5-chloro-2-isoindolinyl)-1-(2,4-difluorophenyl)-6,8- difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
178 mg of 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid, 89 mg of 5-chloroisoindoline, 137 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 25 mg of the target compound.

reactant | 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 178 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H6F5NO3
reactant | 5-chloroisoindoline | 89 mg | ClC=1C=C2CNCC2=CC1 | C8H8ClN
reactant | DBU | 137 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7(5-chloro-2-isoindolinyl)-1-(2,4-difluorophenyl)-6,8- difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 25 mg | ClC=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C24H13ClF4N2O3
